US06127376
To 3-[(6-chloro-2-phenylpyrimidin-4-yl)oxy]-4-(benzyloxy)benzonitrile (1.0 g, 2.4 mmol) in DMSO (12 mL) was added Cs2CO3 (0.8 g, 2.5 mmol) and 2-(3-hydroxyphenyl)-1-methylimidazoline (0.44 g, 2.5 mmol). After stirring in an oil bath at 50° C. for 24 hours, the reaction was partitioned with water and ethyl acetate. The layers were separated, washed with water and brine, dried (Na2SO4), and the solvent was removed in vacuo. The residue was chromatographed on silica gel with CH2CL2 /MeOH/NH4OH (120/5/1) to give 0.5 g of 3-[(6-[3-(1-methylimidazolin-2-yl)phenoxy]-2-phenylpyrimidin-4-yl)oxy]-4-(benzyloxy)benzonitrile.

reactant | 3-[(6-chloro-2-phenylpyrimidin-4-yl)oxy]-4-(benzyloxy)benzonitrile | 2.4 mmol, 1.0 g | ClC1=CC(=NC(=N1)C1=CC=CC=C1)OC=1C=C(C#N)C=CC1OCC1=CC=CC=C1 | C24H16ClN3O2
reactant | Cs2CO3 | 2.5 mmol, 0.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-(3-hydroxyphenyl)-1-methylimidazoline | 2.5 mmol, 0.44 g | OC=1C=C(C=CC1)C=1N(CCN1)C | C10H12N2O
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
product | 3-[(6-[3-(1-methylimidazolin-2-yl)phenoxy]-2-phenylpyrimidin-4-yl)oxy]-4-(benzyloxy)benzonitrile | 0.5 g | CN1C(=NCC1)C=1C=C(OC2=CC(=NC(=N2)C2=CC=CC=C2)OC=2C=C(C#N)C=CC2OCC2=CC=CC=C2)C=CC1 | C34H27N5O3
